US06291502B1
9-(1-Benzyl-1H-imidazol-2-yl)-9H-fluoren-9-ol, colorless solid, m.p. 149° C., M++H=339.
1.2 eq of n-butyllithium are added at −70° C. to N-benzylimidazole in THF. The mixture is allowed to warm to −20° C. in the course of one hour and is then again cooled to −70° C. After addition of 1 eq of fluorenone in THF, it is allowed to warm to RT in the course of 5 h. Aqueous work-up, extraction with EA, followed by subsequent drying of the organic phase over magnesium sulfate and evaporation of the solvents yields a solid, yellowish residue. Trituration with diethyl ether yields a solid, which is filtered off with suction.

reactant | n-butyllithium | 1.2 eq | C(CCC)[Li]
reactant | N-benzylimidazole | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
reactant | fluorenone | 1 eq | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 9-(1-Benzyl-1H-imidazol-2-yl)-9H-fluoren-9-ol | C(C1=CC=CC=C1)N1C(=NC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C23H18N2O
